US06713474B2
In a similar manner to Example 9, 4-[4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]phenol was reacted with 4-fluorobenzaldehyde to give 4-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]benzaldehyde.

reactant | 4-[4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]phenol | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)O)C2COCC2 | C16H16N4O2
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]benzaldehyde | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(OC1=CC=C(C=O)C=C1)C=C2)C2COCC2 | C23H20N4O3
